US07402608B2
To a stirred solution of 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (1.82 g, 7.8 mmol) in 1,2-dichloroethane (40 mL) was added sequentially 2-methoxypropene (3.0 mL, 31.2 mmol), AcOH (1.8 mL, 31.2 mmol) and NaBH(OAc)3 (3.31 g, 15.6 mmol) and stirred for 2 hrs. It was then diluted with EtOAc and H2O. The aqueous solution was adjusted to pH=7 by adding NaHCO3. The aqueous phase was extracted with EtOAc, the combined extract was washed with brine and dried on MgSO4 and filtered. Purification on bond elute with hexane to 5% EtOAc-hexane furnished 3-Isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester (2.07 g, 96% yield). 1H NMR (CDCl3, 400 MHz): δ 7.62 (d, 2H) 7.40 (m, 3H), 6.91 (s, 1H), 3.84 (s, 3H), 3.71 (m, 1H), 1.35 (d, 6H).

reactant | 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 7.8 mmol, 1.82 g | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | 2-methoxypropene | 31.2 mmol, 3.0 mL | COC(=C)C | C4H8O
reactant | AcOH | 31.2 mmol, 1.8 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 15.6 mmol, 3.31 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 3-Isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 2.07 g, 96% yield | COC(=O)C=1SC(=CC1NC(C)C)C1=CC=CC=C1 | C15H17NO2S
